US04665188
0 87 g of cupric chloride was suspended in 20 ml of acetonitrile and 0.82 g of tertiary butyl nitrite was added thereto. A solution of 1.8 g of ethyl 5-(2-(2-aminothiazole-5-yl)ethyl)-5,6,7,8-tetrahydro-1-naphthalenecarboxylate in 5 ml of acetonitrile was added dropwise to the mixture. After evolution of gas ceased, 15% hydrochloric acid was added to the mixture. The resulting mixture was extracted with chloroform. The extract was washed with water, dried and then concentrated in vacuo. The residue was purifed by silica gel column chromatography with chloroform eluent to give an oily product. The product was dissolved in 30 ml of acetic acid, and a small amount of zinc powder was added thereto under refluxing. The above procedure was repeated four times at hourly intervals and the total amount of zinc was 0.4 g. The insoluble material was removed by filtration and the filtrate was concentrated in vacuo. The residue was dissolved in chloroform. The solution was washed with water and dried and then concentrated in vacuo. The residue was purified by silica gel column chromatography to give 1.3 g of ethyl 5-(2-(5-thiazolyl)ethyl)-5,6,7,8-tetrahydro-1-naphthalenecarboxylate as an oil.

reactant | tertiary butyl nitrite | 0.82 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | ethyl 5-(2-(2-aminothiazole-5-yl)ethyl)-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 1.8 g | NC=1SC(=CN1)CCC1C=2C=CC=C(C2CCC1)C(=O)OCC | C18H22N2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | ethyl 5-(2-(5-thiazolyl)ethyl)-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 1.3 g | S1C=NC=C1CCC1C=2C=CC=C(C2CCC1)C(=O)OCC | C18H21NO2S
